US04055595
A solution of 2-hydroxy-3,3,3-trifluoro-2-trifluoromethylpropionitrile sodium salt (4.3 g.) and 4-(4-chlorophenyl)-benzyl chloride (4.7 g.) in dimethylformamide (25 ml.) is stirred at ambient temperature for 10 days, then diluted with water. During this reaction, 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionitrile is formed and is subsequently hydrolysed to the corresponding amide. The mixture is extracted with 1,2,2-trichloro-1,1,2-trifluoroethane, and the extract is dried with sodium sulphate, then evaporated. The residue is crystallised from cyclohexane to give 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionamide, m.p. 123°-124° C. (1.6 g.).

reactant | 2-hydroxy-3,3,3-trifluoro-2-trifluoromethylpropionitrile sodium salt | 4.3 g | [Na].OC(C#N)(C(F)(F)F)C(F)(F)F
reactant | 4-(4-chlorophenyl)-benzyl chloride | 4.7 g | ClC1=CC=C(C=C1)C1=CC=C(CCl)C=C1 | C13H10Cl2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionitrile | ClC1=CC=C(C=C1)C1=CC=C(COC(C#N)(C(F)(F)F)C(F)(F)F)C=C1 | C17H10ClF6NO
